US07598257B2
Step 4. 3-[1-(1H-Pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-4-yl]benzonitrile
A mixture of 4-bromo-1H-pyrrolo[2,3-b]pyridine (25.0 mg, 0.000127 mol) and 3-(1H-pyrazol-4-yl)benzonitrile trifluoroacetate (23.6 mg, 0.0000833 mol) was heated at 180° C., neat overnight. The crude residue was purified by HPLC on a C-18 column eluting with a water; ACN gradient containing 0.2% TFA to give the title compound as an amorphous white solid, LC/MS (M+H)+: 286, 1H NMR (DMSO-d6) δ 11.85 (bs, 1H), 9.18 (s, 1H), 8.42 (s, 1H), 8.28 (s, 1H), 8.25 (d, 1H, J=5.0), 8.07 (d, 1H, J=7.0), 7.64 (d, 1H, J=7.0), 7.56 (t, 1H, J=7.0), 7.51 (m, 1H), 7.47 (d, 1H, J=5.0), 7.03 (m, 1H).

reactant | 4-bromo-1H-pyrrolo[2,3-b]pyridine | 0.000127 mol, 25.0 mg | BrC1=C2C(=NC=C1)NC=C2 | C7H5BrN2
reactant | 3-(1H-pyrazol-4-yl)benzonitrile trifluoroacetate | 0.0000833 mol, 23.6 mg | FC(C(=O)O)(F)F.N1N=CC(=C1)C=1C=C(C#N)C=CC1
product | 3-[1-(1H-Pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-4-yl]benzonitrile | N1C=CC=2C1=NC=CC2N2N=CC(=C2)C=2C=C(C#N)C=CC2 | C17H11N5
